US07528262B2
4-[2-(2-Methoxyethyl)indol-1-yl]phenol.
1-(4-Benzyloxyphenyl)-2-(2-methoxyethyl)-1H-indole (0.14 g, 0.39 mmol) was dissolved in tetrahydrofuran (2 mL) and methanol (1 mL). A catalytic amount of palladium on carbon (wet, 10% dry basis) was added, and the flask was purged with N2 and H2. The reaction was stirred under 1 atm of H2 overnight. The mixture was filtered through Celite, and the filtrate was concentrated to give the desired product. The reaction was assumed to be quantitative. LC-MS (C17H17NO2 calc'd 267) m/z 266 (M−H).

reactant | 1-(4-Benzyloxyphenyl)-2-(2-methoxyethyl)-1H-indole | 0.39 mmol, 0.14 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)N1C(=CC2=CC=CC=C12)CCOC | C24H23NO2
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
solvent | methanol | 1 mL | CO | CH4O
catalyst | palladium on carbon | [Pd] | Pd
product | 4-[2-(2-Methoxyethyl)indol-1-yl]phenol | COCCC=1N(C2=CC=CC=C2C1)C1=CC=C(C=C1)O | C17H17NO2
